US08071388B2
To a solution of 1,1,2-trimethyl-1H-benzo[e]indole-7-sulfonic acid (723 mg, 2.5 mmol) in methanol (5 mL) was added a saturated solution of potassium hydroxide in isopropanol (3.134%, 4.913 g, 1.1 eq.) and the resulting suspension was heated at reflux for 2 h. Then the mixture was concentrated and the corresponding potassium salt was obtained. Under nitrogen atmosphere, a mixture of potassium 1,1,2-trimethyl-1H-benzo[e]indole-7-sulfonate and 5-bromovaleric acid (585 mg, 3 mmol) in 3-methyl-2-butanone (5 mL) was heated at 140° C. for 20 h. Removal of the solvent and purification by chromatography (dichloromethane/methanol) afforded 3-(4-carboxybutyl)-1,1,2-trimethyl-1H-benzo[e]indolium-7-sulfonate (70 mg, isolated yield 7.2%). LC-MS: 390.18 [M+].

reactant | potassium 1,1,2-trimethyl-1H-benzo[e]indole-7-sulfonate | CC1(C(=NC=2C=CC3=C(C12)C=CC(=C3)S(=O)(=O)[O-])C)C.[K+]
reactant | 5-bromovaleric acid | 3 mmol, 585 mg | BrCCCCC(=O)O | C5H9BrO2
solvent | 3-methyl-2-butanone | 5 mL | CC(C(C)=O)C | C5H10O
product | 3-(4-carboxybutyl)-1,1,2-trimethyl-1H-benzo[e]indolium-7-sulfonate | 70 mg, yield 7.2% | C(=O)(O)CCCC[N+]1=C(C(C=2C3=C(C=CC12)C=C(C=C3)S(=O)(=O)[O-])(C)C)C | C20H23NO5S
